US06310213B1
(SR)-1,4-Dibenzyl-3-oxo-piperidine-4-carboxylic acid ethyl ester
To a suspension of 30.9 g NaH (55%, 772 mmol) in 1000 ml DMF was added under argon atmosphere portionwise 115 g ethyl (SR)-N-benzyl-3-oxo-4-piperidine-carboxylate hydrochloride (386 mmol, commercially available) at 0-5° C. The reaction mixture was stirred for 1 h at r.t. and a solution of 45.9 ml benzylbromide (66.0 g, 386 mmol) in 200 ml DMF was added at 0° C. The reaction mixture was stirred for 1.5 h at r. t. and 200 ml sat. NaHCO3 solution were added at 0-10° C. The reaction mixture was reduced to 500 ml and 1000 ml water were added. The aqueous phase was extracted three times with 1000 ml ethyl acetate and the combined organic phases were washed with water (3×200 ml) and brine (3×200 ml). The organic phase was dried over MgSO4, filtrated and the solvent was removed under reduced pressure. The crude product was purified by chromatography over silica gel (ethyl acetate/hexane 1/8, then 1/4) to give 101 g of the product (290 mmol, 75%) as a brown oil.

reactant | NaH | 772 mmol, 30.9 g | [H-].[Na+]
reactant | ethyl (SR)-N-benzyl-3-oxo-4-piperidine-carboxylate hydrochloride | 115 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O
reactant | benzylbromide | 386 mmol, 45.9 ml, 66.0 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaHCO3 | 200 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 1000 ml | CN(C)C=O | C3H7NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | water | 1000 ml | O | H2O
product | (SR)-1,4-Dibenzyl-3-oxo-piperidine-4-carboxylic acid ethyl ester | 290 mmol, 101 g, 75% | C(C)OC(=O)C1(C(CN(CC1)CC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C22H25NO3
